US07977358B2
C] 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
An ice cooled solution of ethyl acetoacetate (0.21 ml, 1.63 mmol) in 10 ml ethanol was treated with a solution of sodium ethanolate 21% (in ethanol, 0.6 ml, 1.63 mmol). The reaction mixture was stirred 1 h at 0° C., then N-[3-(trifluoromethyl)phenyl]pyridine-4-carbohydrazonoyl bromide (562 mg, 1.63 mmol) in 5 ml ethanol was added drop wise. The yellow suspension was stirred 1 h at room temperature and 2 days at 50° C. The reaction mixture was concentrated in vacuo and the residual product partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The organic phases were dried over magnesium sulfate and evaporated. Column chromatography (EtOAc:n-heptane 1:1) gave the title compound as a light brown oil (130 mg, 21%). MS: 376.5 (MH+).

reactant | ethyl acetoacetate | 1.63 mmol, 0.21 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethanolate | 1.63 mmol, 0.6 ml | C(C)[O-].[Na+]
reactant | N-[3-(trifluoromethyl)phenyl]pyridine-4-carbohydrazonoyl bromide | 1.63 mmol, 562 mg | FC(C=1C=C(C=CC1)NN=C(C1=CC=NC=C1)Br)(F)F | C13H9BrF3N3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 130 mg, 21% | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1 | C19H16F3N3O2
